********************************************************************************************************
*
* Nexperia NX6008NBKW
* Polarity N - Channel
* Ratings 60V/2000.0mOhm/0A
* Revision N#: 1.0
* Created on 2021-10-05 12:47:40
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT NX6008NBKW D G S

* Package impedance
LD D 5 20.00p
RLD2 D 5 50.27m
RLD1 5 4 5.000u
LG G 1 781.3p
RLG G 1 1.964
LS S 8 440.0p
RLS2 S 8 1.106
RLS1 8 7 450.0u

* Drain,gate and source resistances
RD 3 4 2.050 TC= 1.500m,8.511u
RG 1 2 2.469
RS 6 7 1.000u

* Body Diode
RBD 9 4 500m TC= 4.000m,23.00u
DBD 7 9 D_DBD
RDS 7 4 20.00G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 5.000G
CGS 2 6 1.000p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (-4.5,66.38)
+ (-1.21,66.38)
+ (0.01,29.2)
+ (0.1,25.48)
+ (0.2,20.49)
+ (0.5,10.2)
+ (1.0,6.472)
+ (2.0,4.873)
+ (3.0,4.223)
+ (4.0,3.838)
+ (5.0,3.573)
+ (6.0,3.371)
+ (8.0,3.079)
+ (10.0,2.877)
+ (12.0,2.716)
+ (16.0,2.478)
+ (20.0,2.304)
+ (24.0,2.17)
+ (30.0,2.012)
+ (40.0,1.821)
+ (48.0,1.708)
+ (60.0,1.578)

.MODEL MINT NMOS Vto= 801.0m Kp= 15.16 Nfs= 208.9G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 101.5

.MODEL D_DBD D Bv= 69.00 Ibv= 250.0u Rs= 1.000u Is= 1.091f
+ N= 748.1m M= 434.0m VJ= 80.00m Fc= 500.0m Cjo= 37.00p Tt= 7.384n

.ENDS NX6008NBKW

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************
