.SUBCKT DIO33_INPUT_88_MIN IN VCC VEE
* Component:    SAME54_TQFP100
* Manufacturer: MICROCHIP Technology
* Model:        dio33_input
* Pin:          88
* Requires external VCC= 2.85
* Requires external VEE= 0
C_COMP DIE VEE 1.17915e-012
R_COMP DIE VEE 1e+011
L_PIN DIE 12 5.37e-009
R_PIN IN 12 0.06892
C_PIN 0 IN 1.14e-012
*** COMMON TO ALL PINS IN THE PACKAGE
XGC DIE VEE DIE VEE DIO33_INPUT_MIN_GND_CLAMP
XPC DIE VCC VCC DIE DIO33_INPUT_MIN_POWER_CLAMP
.ENDS DIO33_INPUT_88_MIN
