*
* Using the graph from datasheet:
*   DCR=20m-ohms
*   XL=8 ohms at 1MHz, so L=XL/(2*pi*1MHz)=1.2732uH
*   R=160 ohms at 330MHz
*   C=(1/(2*pi*f_resonant))^2/L, so C=(1/(2*pi*380MHz))^2/1.2732uH=137.777fF
*
* The above values did not produce a transfer function similar to the graph
* in the datasheet.  Scaling by 10x is closer - not perfect, but good enough
* for this simulation.
*
.subckt WLBD2012HCU121TH 1 2
RSHUNT1 1 2 160
CSHUNT1 1 2 1.37777p
RSER1 1 3 20m
LSER1 3 2 0.12732u
.ends
