.subckt DTWIO33_TWIHS_M1_PAD_52_MAX IN EN OUT VCC VEE
.model trigger slew(rise_slope=1 fall_slope=100)
Btrigger /trga 0 v={(v(IN)>=1.26)*(v(EN)>=1.26)}
Atrigger /trga /trgb trigger
Bout OUT 0 v={v(/trgb)*((v(IN)>=1.26)*(v(EN)>=1.26))}
Rq VCC VEE 10k
Bpwl VEE VCC i=pwl(v(/trgb)*((v(IN)>=1.26)*(v(EN)>=1.26)),
+0.000n,0,
+0.010n,0,
+0.782n,4.338m,
+0.949n,2.497m,
+1.195n,-48.226m,
+1.291n,-36.298m,
+1.476n,-31.781m,
+1.709n,-22.002m,
+2.003n,-24.677m,
+2.245n,-23.552m,
+2.521n,-24.056m,
+2.974n,-24.291m,
+3.303n,-26.417m,
+3.725n,-16.446m,
+4.322n,-8.933m,
+4.621n,-6.925m,
+5.847n,-1.425m,
+6.132n,-1.339m,
+10.213n,0,
+10.300n,0)
.ends
