* CL05A105KO5NNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 1uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 16Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.05mm
*     Width = 0.50+/-0.05mm
*     Thickness = 0.50+/-0.05mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 2.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A105KO5NNN_Precise_DC2.5V_25degC 1 2
C1 1 3 5.46839E-7
C2 3 4 2.47275E-5
C3 4 5 1.37310E-5
C4 5 6 1.47571E-5
C5 6 7 1.49973E-5
C6 7 8 1.11287E-5
C7 8 9 4.25922E-6
C8 9 10 1.0E-10
C16 17 18 2.61358E-4
C17 18 19 5.73151E-5
C18 19 20 2.85590E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 1.52355E-5
C23 24 25 7.20215E-6
C24 25 26 7.50352E-7
C25 26 27 1.57323E-8
C26 27 28 3.89908E-11
C27 28 2 2.53303E-4
L10 11 12 8.24568E-11
L11 12 13 6.09128E-11
L12 13 14 3.51340E-11
L13 14 15 1.0E-10
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 2.07904E-11
L17 18 19 2.84947E-11
L18 19 20 1.41795E-12
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.18862
L23 24 25 7.85885E-12
L24 25 26 3.96248E-11
L25 26 27 1.33929E-10
L26 27 28 1.17198E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 534.79391
R3 4 5 79.15179
R4 5 6 1.19359
R5 6 7 0.16853
R6 7 8 0.02337
R7 8 9 0.00431
R8 9 10 1.0E-6
R9 10 11 0.00635
R11 12 13 0.13574
R12 13 14 1.23661
R13 14 15 1.0E-6
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00197
R17 18 19 0.00740
R18 19 20 8.00941E-4
R19 20 21 1.0E-6
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 8.67264
R23 24 25 0.00331
R24 25 26 0.00920
R25 26 27 0.03103
R26 27 28 3.22697
R27 28 2 1.0E-6
.ENDS CL05A105KO5NNN_Precise_DC2.5V_25degC